US05071469
2-(1-Hydroxyethyl)benzenemethanesulfonamide
A mixture of 1.9 g (7.4 mmol) of 2-(1-acetyloxyethyl)benzenemethanesulfonamide, 0.18 g of sodium methoxide (3.3 mmol) and 20 ml of methanol was stirred at room temperature for 2 days. The mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate and 0.1N HCl. The organic layer was dried (MgSO4) and concentrated to give 1.49 g of an oil which slowly solidified.

reactant | 2-(1-acetyloxyethyl)benzenemethanesulfonamide | 7.4 mmol, 1.9 g | C(C)(=O)OC(C)C1=C(C=CC=C1)CS(=O)(=O)N | C11H15NO4S
reactant | sodium methoxide | 3.3 mmol, 0.18 g | C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-(1-Hydroxyethyl)benzenemethanesulfonamide | 1.49 g | OC(C)C1=C(C=CC=C1)CS(=O)(=O)N | C9H13NO3S
